US03988339
2-Acetyl-7-chloro-8-sulfamyl-1,2,3,4-tetrahydroisoquinoline is hydrolyzed in refluxing 10% hydrochloric acid (60 ml.) for 2.5 hours. The reaction mixture is evaporated and the residue treated with methanol amd ether. The solid is filtered off to give 7-chloro-8-sulfamoyl-1,2,3,4-tetrahydroisoquinoline hydrochloride. The hydrochloride is treated with ammonium hydroxide as in Example 9 to give 7-chloro-8-sulfamoyl-1,2,3,4-tetrahydroisoquinoline.

reactant | 2-Acetyl-7-chloro-8-sulfamyl-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C(=CC=C2CC1)Cl)S(N)(=O)=O | C11H13ClN2O3S
solvent | hydrochloric acid | 60 ml | Cl | ClH
product | 7-chloro-8-sulfamoyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC1=CC=C2CCNCC2=C1S(N)(=O)=O | InChI=1S/C9H11ClN2O2S.ClH/c10-8-2-1-6-3-4-12-5-7(6)9(8)15(11,13)14;/h1-2,12H,3-5H2,(H2,11,13,14);1H
